US04610991
1-[4-(4-Pyridinylamino)benzoyl]piperidine was prepared from 4-(4-pyridinylamino)benzoic acid and piperidine according to a procedure analogous to that of Example 48(b), and was obtained in 49.5% yield in the form of a buff powder, m.p. 170°-172° C. when recrystallized from acetonitrile.

reactant | 4-(4-pyridinylamino)benzoic acid | N1=CC=C(C=C1)NC1=CC=C(C(=O)O)C=C1 | C12H10N2O2
reactant | piperidine | N1CCCCC1 | C5H11N
product | 1-[4-(4-Pyridinylamino)benzoyl]piperidine | 49.5% yield | N1=CC=C(C=C1)NC1=CC=C(C(=O)N2CCCCC2)C=C1 | C17H19N3O
